US08207164B2
k) (5-{5-[(5-Cyano-pyridine-2-carbonyl)-amino]-2-fluoro-phenyl}-5-trifluoromethyl-2,5,6,7-tetrahydro-[1,4]oxazepin-3-yl)-carbamic acid tert-butyl ester
A solution of [5-(5-amino-2-fluoro-phenyl)-5-trifluoromethyl-2,5,6,7-tetrahydro-[1,4]oxazepin-3-yl]-carbamic acid tert-butyl ester (50 mg, 0.128 mmol), 5-cyano-2-pyridinecarboxylic acid (28.4 mg, 0.192 mmol) and HOAT (31.3 mg, 0.230 mmol) in 0.5 mL DMF was cooled to 0-5° C. EDC (36.7 mg, 0.192 mmol) and DIPEA (33 mg, 0.256 mmol) were added. The resulting solution was allowed to warm up to rt over night. The reaction mixture was then partitioned between saturated aqueous NaHCO3 solution and EtOAc. The layers were washed with saturated aqueous NaHCO3 solution, brine and EtOAc. The combined organic layers were dried over MgSO4.H2O and evaporated. The crude product was purified on a silica gel column by eluting with hexane/EtOAc 4/1->3/1 to give 63.3 mg of the title compound as a white solid.

reactant | [5-(5-amino-2-fluoro-phenyl)-5-trifluoromethyl-2,5,6,7-tetrahydro-[1,4]oxazepin-3-yl]-carbamic acid tert-butyl ester | 0.128 mmol, 50 mg | C(C)(C)(C)OC(NC=1COCCC(N1)(C(F)(F)F)C1=C(C=CC(=C1)N)F)=O | C17H21F4N3O3
reactant | 5-cyano-2-pyridinecarboxylic acid | 0.192 mmol, 28.4 mg | C(#N)C=1C=CC(=NC1)C(=O)O | C7H4N2O2
reactant | HOAT | 0.230 mmol, 31.3 mg | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | EDC | 0.192 mmol, 36.7 mg
reactant | DIPEA | 0.256 mmol, 33 mg | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
product | (5-{5-[(5-Cyano-pyridine-2-carbonyl)-amino]-2-fluoro-phenyl}-5-trifluoromethyl-2,5,6,7-tetrahydro-[1,4]oxazepin-3-yl)-carbamic acid tert-butyl ester | 63.3 mg | C(C)(C)(C)OC(NC=1COCCC(N1)(C(F)(F)F)C1=C(C=CC(=C1)NC(=O)C1=NC=C(C=C1)C#N)F)=O | C24H23F4N5O4
